US05952152
Compound 1: Dimesitylphenylborane
1.1 equivalents of 1.6 M butyllithium in hexane (37.5 ml, 0.066 mol) are added over the course of 15 minutes at -78° C. to a solution of 9.42 g (0.06 mol) of bromobenzene in 80 ml of tetrahydrofuran (THF). The reaction mixture is stirred at this temperature for 3 h. Then 16.1 g (0.06 mol) of solid dimesitylfluoroborane are added, and the mixture is allowed to warm to room temperature and stirred for a further hour. The mixture is poured into 500 ml of water and the resulting suspension is filtered. The product is purified by trituration with boiling methanol, to give 16.9 g (86% of theory) of the product as a white solid with a melting range of 185-187° C. The shifts δ in the 1H NMR, measured in CDCl3 are 7.50 ppm (d,2,J=7 Hz), 7.46 ppm (t,1,J=10 Hz), 7.50 ppm (br t, 2, J=7 Hz), 6.82 ppm (s, 4), 2.30 ppm (s,6) and 2.00 ppm (s,12).

reactant | butyllithium | 1.6 M, 1.1 equivalents | C(CCC)[Li]
reactant | hexane | 0.066 mol, 37.5 ml | CCCCCC | C6H14
reactant | bromobenzene | 0.06 mol, 9.42 g | BrC1=CC=CC=C1 | C6H5Br
reactant | dimesitylfluoroborane | C1(=C(C(=CC(=C1)C)C)B(F)C1=C(C=C(C=C1C)C)C)C | C18H22BF
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | water | 500 ml | O | H2O
product | Dimesitylphenylborane | C1(=C(C(=CC(=C1)C)C)B(C1=CC=CC=C1)C1=C(C=C(C=C1C)C)C)C | C24H27B
